US04948796
8.16 g of 2,5-dimethylbenzothiazole was dissolved in 50 ml of carbon tetrachloride. To the solution were added 8.9 g of N-bromosuccinimide and 82 mg of benzoyl peroxide. The mixture was refluxed for 3 hours. The resulting insolubles were removed by filtration. The solvent of the filtrate was removed by distillation under reduced pressure to obtain 5-bromomethyl-2-methylbenzothiazole. It was suspended in 100 ml of 50% acetic acid. To the suspension was added 14.00 g of hexamethylenetetramine, and the mixture was refluxed for 1 hour. The reaction mixture was mixed with 200 ml of water. The resulting mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium hydrogencarbonate solution, water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by a column chromatography (eluant: n-hexane/ethyl acetate=3/1) to obtain 3.54 g of colorless crystals of 2-methyl-5-formylbenzothiazole having a melting point of 92°-94° C.

reactant | 2,5-dimethylbenzothiazole | 8.16 g | CC=1SC2=C(N1)C=C(C=C2)C | C9H9NS
reactant | N-bromosuccinimide | 8.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 82 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-bromomethyl-2-methylbenzothiazole | BrCC=1C=CC2=C(N=C(S2)C)C1 | C9H8BrNS
